US04952574
Using the general method of Example XXIII Part A, 31.2 g (0.20 mole) of ethyl iodide was reacted with 27.3 g (0.15 mole) of ethyl 2,5-dihydroxybenzoate to provide 22 g of white crystalline ethyl 5-ethoxy-2-hydroxybenzoate, m.p. 64°-66° C.

reactant | ethyl iodide | 0.20 mole, 31.2 g | C(C)I | C2H5I
reactant | ethyl 2,5-dihydroxybenzoate | 0.15 mole, 27.3 g | OC1=C(C(=O)OCC)C=C(C=C1)O | C9H10O4
product | ethyl 5-ethoxy-2-hydroxybenzoate | 22 g | C(C)OC=1C=CC(=C(C(=O)OCC)C1)O | C11H14O4
